US05589492
Methyl 2-(benzenesulphonyl)-3-(4-benzyloxyphenyl)propanoate
A mixture of methyl 3-(4-benzyloxyphenyl)-2-chloropropanoate (International Patent Appl., Publication No. WO 9101337) (0.50 g), sodium benzenesulphinate (0.29 g) and dry N,N-dimethylformamide (25 mL) was heated at 80° C. for 24 hrs. The mixture was cooled and diluted with water (500 mL), then extracted with dichloromethane (2×250 mL). The combined organic solutions were washed with water (2×250 mL) and brine (250 mL), dried (MgSO4) and evaporated. The residue was chromatographed on silica gel with dichloromethane as eluent to afford the title compound.

reactant | methyl 3-(4-benzyloxyphenyl)-2-chloropropanoate | 0.50 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(C(=O)OC)Cl | C17H17ClO3
reactant | sodium benzenesulphinate | 0.29 g | C1(=CC=CC=C1)S(=O)[O-].[Na+]
reactant | N,N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
solvent | water | 500 mL | O | H2O
product | Methyl 2-(benzenesulphonyl)-3-(4-benzyloxyphenyl)propanoate | C1(=CC=CC=C1)S(=O)(=O)C(C(=O)OC)CC1=CC=C(C=C1)OCC1=CC=CC=C1 | C23H22O5S
